US05436359
Methyl 1-O-trichloroacetimidoyl-2,3,4-tri-O-acetyl-α-D-glucopyranuronate
60% Oily sodium hydride (0,366 g) was added to an ice-cooled solution of methyl 2,3,4-tri-O-acetyl-D-glucopyranuronate (3.96 g), trichloroacetonitrile (12 ml) and dichloromethane (100 ml), and the mixture was stirred at room temperature for 15 minutes. The reaction mixture was subjected to short column (70φ×50 mm) chromatography on silica gel and eluted with ethyl acetate/hexane (1:1). The eluate was concentrated under reduced pressure to obtain the desired compound (4.37 g) as crystals (mp: 108° C.).

reactant | sodium hydride | 0,366 g | [H-].[Na+]
reactant | methyl 2,3,4-tri-O-acetyl-D-glucopyranuronate | 3.96 g | C(C)(=O)O[C@H]1C(O)O[C@@H]([C@H]([C@@H]1OC(C)=O)OC(C)=O)C(=O)OC | C13H18O10
reactant | trichloroacetonitrile | 12 ml | ClC(C#N)(Cl)Cl | C2Cl3N
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
product | Methyl 1-O-trichloroacetimidoyl-2,3,4-tri-O-acetyl-α-D-glucopyranuronate | 4.37 g | ClC(C(=N)O[C@@H]1[C@H](OC(C)=O)[C@@H](OC(C)=O)[C@H](OC(C)=O)[C@H](O1)C(=O)OC)(Cl)Cl | C15H18Cl3NO10
